US04215127
A mixture of 9.9 g (0.045 mole) of 4-iodophenol, 3.45 g (0.05 mole) of 1H-1,2,4-triazole, 12.33 g (0.045 mole) of 1,1-dibromo-3-methoxy-3-methyl-2-butanone, and 14 g (0.101 mole) of potassium carbonate in 200 ml of acetone was heated at boiling temperature (reflux) with stirring for 4 hours. After evaporating the solvent, 400 ml of 5% NaOH solution was added and the mixture extracted with diethyl ether. The ether phase was dried using MgSO4 and the solvent evaporated. The residual yellow oil was purified by high pressure liquid chromatography (silica gel, 8:2 hexane/acetone). Recrystallization from hexane-ether gave 8.0 g (44% yield) of 1-(4-iodophenoxy)-1-(1H-1,2,4-triazol-1-yl)-3-methoxy-3-methyl-2-butanone, m.p. 81.5°-82.5° C.

reactant | 4-iodophenol | 0.045 mole, 9.9 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 1H-1,2,4-triazole | 0.05 mole, 3.45 g | N1N=CN=C1 | C2H3N3
reactant | 1,1-dibromo-3-methoxy-3-methyl-2-butanone | 0.045 mole, 12.33 g | BrC(C(C(C)(C)OC)=O)Br | C6H10Br2O2
reactant | potassium carbonate | 0.101 mole, 14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-(4-iodophenoxy)-1-(1H-1,2,4-triazol-1-yl)-3-methoxy-3-methyl-2-butanone | 8.0 g, 44% yield | IC1=CC=C(OC(C(C(C)(C)OC)=O)N2N=CN=C2)C=C1 | C14H16IN3O3
